US03931302
A solution of 15.2 g of ethyl 3-(p-chlorobenzoyl)-benzyl malonate in 50 ml of acetic acid was added to a solution of 50 ml of sulfuric acid and 50 ml of water and the mixture was refluxed under a nitrogen atmosphere for 20 hours and then cooled to room temperature. The mixture was poured into water and then extracted with methylene chloride. The organic phase was extracted with N sodium hydroxide and the alkaline phase was treated with activated carbon, filtered and acidified by addition at 10°C with stirring of 270 ml of N hydrochloric acid. The mixture was vacuum filtered and the precipitate was washed with water and dried under reduced pressure to obtain 3.11 g of 3-(3'-p-chlorobenzoyl-phenyl)-propionic acid which was used as is for the next step.

reactant | ethyl 3-(p-chlorobenzoyl)-benzyl malonate | 15.2 g | C(CC(=O)OCC1=CC(=CC=C1)C(C1=CC=C(C=C1)Cl)=O)(=O)OCC | C19H17ClO5
reactant | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 50 ml | O | H2O
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 3-(3'-p-chlorobenzoyl-phenyl)-propionic acid | 3.11 g | ClC1=CC=C(C(=O)C=2C=C(C=CC2)CCC(=O)O)C=C1 | C16H13ClO3
